datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1.C[NH+](c1ccccc1)C([O-])[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1.C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"CCC(C)[N+:21](C)(C)[H:20].c1cc2c([n:10]c1)CCCC2>>CCC(C)[N:21](C)C.c1cc2c([n+:10]([H:20])c1)CCCC2 10=20;20,21=21",
"CCCSC(C)C(=O)[O-:10].c1ccc2sc(-c3ccc([NH2+:21][H:20])cc3)nc2c1>>CCCSC(C)C(=O)[O:10][H:20].c1ccc2sc(-c3ccc([NH2:21])cc3)nc2c1 10=20;20,21=21",
"CCN(CC)c1ccc(C(O)(c2ccccc2)c2ccc([N:10](CC)CC)cc2)cc1.CCc1c(O)n(C)[n+:21]([H:20])c1C>>CCN(CC)c1ccc(C(O)(c2ccccc2)c2ccc([N+:10](CC)(CC)[H:20])cc2)cc1.CCc1c(O)n(C)[n:21]c1C 10=20;20,21=21",
"NCCCNCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NCCCNCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C1C[N+:21]2([H:20])CC[NH+]1CC2.C1C[NH:10]C1>>C1C[N:21]2CC[NH+]1CC2.C1C[NH+:10]([H:20])C1 10=20;20,21=21",
"C[N:10](c1ccccc1)C1CCCC1.O=C(c1ccc(F)cc1)[O:21][H:20]>>C[N+:10](c1ccccc1)(C1CCCC1)[H:20].O=C(c1ccc(F)cc1)[O-:21] 10=20;20,21=21",
"O=C(C[NH2:10])NC(Cc1c[nH]cn1)C(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(C[NH2+:10][H:20])NC(Cc1c[nH]cn1)C(=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[S+](C)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[S+](C)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[Si](C)(C)C[NH2+:21][H:20].N[C@H]1CCCC[C@@H]1[NH2:10]>>C[Si](C)(C)C[NH2:21].N[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n:10]1.N#Cc1ccc([NH2+:21][H:20])cc1>>COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n+:10]1[H:20].N#Cc1ccc([NH2:21])cc1 10=20;20,21=21",
"NCCC[NH2+]CCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NCCC[NH2+]CCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C1=C(c2nc3ccccc3s2)C2CC[N:10]1CC2.O=C([O-])CCCc1c[nH]c[n+:21]1[H:20]>>C1=C(c2nc3ccccc3s2)C2CC[N+:10]1([H:20])CC2.O=C([O-])CCCc1c[nH]c[n:21]1 10=20;20,21=21",
"O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)c1nc(/N=N/[O:21][H:20])nn1C.[NH3+]CCC(=O)NC(Cc1c[n:10]c[nH]1)C(=O)[O-]>>CN(C)c1nc(/N=N/[O-:21])nn1C.[NH3+]CCC(=O)NC(Cc1c[n+:10]([H:20])c[nH]1)C(=O)[O-] 10=20;20,21=21",
"CC[N:10](CC)NC.NC[C@@H](O)[C@H]1NC(N)=[N+:21]([H:20])[C@@H]1C(=O)[O-]>>CC[N+:10](CC)(NC)[H:20].NC[C@@H](O)[C@H]1NC(N)=[N:21][C@@H]1C(=O)[O-] 10=20;20,21=21",
"CC(C)(C)[NH:10]CC(O)COc1nsnc1N1CCOCC1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)(C)[NH+:10](CC(O)COc1nsnc1N1CCOCC1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CSCC(=O)[O-:10].O=C(CCCC[N+:21]1([H:20])CCOCC1)c1ccccc1>>CSCC(=O)[O:10][H:20].O=C(CCCC[N:21]1CCOCC1)c1ccccc1 10=20;20,21=21",
"CCN(CC)c1nc[n:10]c2[nH]ncc12.[NH3+]Cc1ccc(Cl)c([NH2+:21][H:20])c1>>CCN(CC)c1nc[n+:10]([H:20])c2[nH]ncc12.[NH3+]Cc1ccc(Cl)c([NH2:21])c1 10=20;20,21=21",
"C[N+:21](C)(C1CCCCC1)[H:20].O=C1[N-]C(=S)[N-:10]C(=O)C1C1C=CCCC1>>C[N:21](C)C1CCCCC1.O=C1[N-]C(=S)[N:10]([H:20])C(=O)C1C1C=CCCC1 10=20;20,21=21",
"NC(=O)c1cccc[n:10]1.[H:20][I:21]>>NC(=O)c1cccc[n+:10]1[H:20].[I-:21] 10=20;20,21=21",
"C(=N/[NH2+:21][H:20])\c1ncnc2nc[nH]c12.Oc1ccc([NH2:10])c(O)c1>>C(=N/[NH2:21])\c1ncnc2nc[nH]c12.Oc1ccc([NH2+:10][H:20])c(O)c1 10=20;20,21=21",
"NCc1nc2ccccc2[n:21]1[H:20].c1ccc2c(c1)ccc1ccc([O-:10])cc12>>NCc1nc2ccccc2[n-:21]1.c1ccc2c(c1)ccc1ccc([O:10][H:20])cc12 10=20;20,21=21",
"COc1ccc(O)c(C[NH:10]C(CO)C(=O)[O-])c1.c1ccc2c([S:21][H:20])[nH+]ccc2c1>>COc1ccc(O)c(C[NH+:10](C(CO)C(=O)[O-])[H:20])c1.c1ccc2c([S-:21])[nH+]ccc2c1 10=20;20,21=21",
"C1CC[NH+](CC[N:10]2CCCC2)C1.O=S(=O)([O-])c1cc([O:21][H:20])c2[nH]ncc2c1>>C1CC[NH+](CC[N+:10]2([H:20])CCCC2)C1.O=S(=O)([O-])c1cc([O-:21])c2[nH]ncc2c1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])/C=C/C[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])/C=C/C[NH2+:10][H:20] 10=20;20,21=21",
"CC1=C[N+:21](C)([H:20])CC1C.NCCNCC[NH2:10]>>CC1=C[N:21](C)CC1C.NCCNCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)c1cccc[n:10]1.c1cc2c(cc1[NH2+:21][H:20])CCC2>>CC(=O)c1cccc[n+:10]1[H:20].c1cc2c(cc1[NH2:21])CCC2 10=20;20,21=21",
"COC(=O)Nc1ncnc2c1[nH]c[n+:21]2[H:20].C[n+]1c(N[NH2:10])ccc2ccccc21>>COC(=O)Nc1ncnc2c1[nH]c[n:21]2.C[n+]1c(N[NH2+:10][H:20])ccc2ccccc21 10=20;20,21=21",
"Cc1ccccc1/C(=N\CCC[N+:21](C)(C)[H:20])c1ccccc1-c1ccccc1.[NH3+]CCc1cccc[n:10]1>>Cc1ccccc1/C(=N\CCC[N:21](C)C)c1ccccc1-c1ccccc1.[NH3+]CCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"O=C(CC#Cc1ccccc1)[O:21][H:20].O=C(CCCCC1CCSS1)[O-:10]>>O=C(CC#Cc1ccccc1)[O-:21].O=C(CCCCC1CCSS1)[O:10][H:20] 10=20;20,21=21",
"CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[N:10]2CC)c1[O-].Cc1ccc(O)c(C[N+:21](C)(C)[H:20])c1>>CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[N+:10]2(CC)[H:20])c1[O-].Cc1ccc(O)c(C[N:21](C)C)c1 10=20;20,21=21",
